US07335658B2
6-[4-(1-HYDROXYCYCLOPROPANECARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 1-hydroxycyclopropanecarboxylic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (53.4% yield). 1H NMR (500 MHz, CDCl3) δ 8.07, 8.03, 7.01, 3.98-3.73, 3.58, 1.53, 1.16, 1.02, 0.76, 0.48, 0.10. MS (ES+) m/z 360 (M+1).

reactant | 1-hydroxycyclopropanecarboxylic acid | OC1(CC1)C(=O)O | C4H6O3
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(1-HYDROXYCYCLOPROPANECARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C1(CC1)O | C18H25N5O3
